US06380387B1
To a pre-mixed solution of sodium methoxide (55 mmol, 2.97 g) and ethyl 3-amino-4,4,4-trifluorocrotonate (55 mmol, 10.0 g) in DMSO (19 mL, dried over molecular sieves) was added methyl isocyanate (55 mmol, 3.2 g) in DMSO (2.5 mL) over 15 min at 20° C. The solution was stirred for 15 min and then another portion of sodium methoxide (27.5 mmol, 1.34 g) was added. After stirring for 15 min at 20° C., methyl isocyanate (14 mmol, 0.8 g) was added at this temperature. After a further 15 min, the reaction mixture was allowed to warm to room temperature and was stirred overnight. The resulting yellow suspension was poured into water (50 mL) to obtain a light yellow solution. The neutral impurities were extracted into diethyl ether (3×50 mL). The aqueous layer was acidified with concentrated hydrochloric acid to afford a white solid. The solids were collected by filtration and were washed with water. After air drying, 6.79 g (63% yield) of 3-methyl-6-(trifluoromethyl)uracil was obtained as a white solid: mp 235-237° C. EI-HRMS m/e calcd for C6H5F3N2O2 (M+) 194.0303, found 194.0303.

reactant | sodium methoxide | 55 mmol, 2.97 g | C[O-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 55 mmol, 10.0 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | methyl isocyanate | 55 mmol, 3.2 g | CN=C=O | C2H3NO
reactant | sodium methoxide | 27.5 mmol, 1.34 g | C[O-].[Na+]
reactant | methyl isocyanate | 14 mmol, 0.8 g | CN=C=O | C2H3NO
reactant | water | 50 mL | O | H2O
solvent | DMSO | 19 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2.5 mL | CS(=O)C | C2H6OS
product | 3-methyl-6-(trifluoromethyl)uracil | 6.79 g, 63% yield | CN1C(NC(=CC1=O)C(F)(F)F)=O | C6H5F3N2O2
